US09079866B2
5-(2′-Amino-3-fluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromoaniline. MS (ESI): mass calcd. for C16H13FN4, 280.11; m/z found, 281.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.36 (s, 1H), 8.02 (s, 1H), 7.91 (m, 1H), 7.31 (d, J=12.7, 2H), 7.04 (d, J=7.3, 2H), 6.82-6.58 (m, 4H), 4.94 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromoaniline | BrC1=C(N)C=CC=C1 | C6H6BrN
product | 5-(2′-Amino-3-fluorobiphenyl-4-yl)pyrazin-2-amine | NC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H13FN4
